US08912208B2
A. (4-{4-[5-(2,2-Dimethyl-propionylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester
To a mixture of {4-[4-(5-amino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (100 mg, 0.3 mmol) in methylene chloride (10 ml) was added triethylamine (43 ul, 0.3 mmol) and trimethylacetyl chloride (40 ul, 0.3 mmol). After 15 hours at room temperature, the reaction was diluted with hexanes to afford a precipitate which was collected by filtration: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.15 (dd, J=12.69, 1.71 Hz, 2 H) 1.26 (s, 10 H) 1.42-1.56 (m, 1 H)1.50 (d, J=9.85 Hz, 1 H) 1.82 (d, J=11.37 Hz, 5 H) 2.26 (d, J=6.69 Hz, 2 H) 3.61 (s, 3 H) 7.32 (d, J=8.34 Hz, 2H) 7.87 (d, J=8.72 Hz, 1 H) 7.95 (d, J=8.34 Hz, 2 H) 8.15 (dd, J=8.72, 2.53 Hz, 1 H) 8.88 (d, J=2.53 Hz, 1 H)9.53 (s, 1 H); (M+H)+ 409.2.

reactant | {4-[4-(5-amino-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.3 mmol, 100 mg | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)N)=O | C20H24N2O2
reactant | triethylamine | 0.3 mmol, 43 ul | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 0.3 mmol, 40 ul | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (4-{4-[5-(2,2-Dimethyl-propionylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NC(C(C)(C)C)=O)=O | C25H32N2O3
